US06458780B1
7-Formyl-imidazo[5,1-b]thiazole was dissolved in 15 ml of methanol. Methyl(triphenylphosphoranylidene)acetate (500 mg) was added to the solution. The mixture was stirred at room temperature for 15 min. The reaction solution was concentrated under the reduced pressure. The concentrate was purified by chromatography on silica gel to give 208 mg of 7-((E)-3-oxo-1-buten-1-yl)imidazo[5,1-b]thiazole.

reactant | 7-Formyl-imidazo[5,1-b]thiazole | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
reactant | Methyl(triphenylphosphoranylidene)acetate | 500 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | methanol | 15 ml | CO | CH4O
product | 7-((E)-3-oxo-1-buten-1-yl)imidazo[5,1-b]thiazole | 208 mg | O=C(/C=C/C=1N=CN2C1SC=C2)C | C9H8N2OS
